US07820699B2
79.5 A solution of (3S,4R)-3-acetoxy-4-{[(5-chloro-thiophene-2-carbonyl)-amino]-methyl}-pyrrolidine-1-carboxylic acid tert-butyl ester (20 mg) in 1 ml of a 2M NH3 solution in MeOH was stirred at 22° C. for 1 h and evaporated to give (3R,4S)-3-{[(5-chloro-thiophene-2-carbonyl)-amino]-methyl}-4-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester. Pale brown oil. MS 305.1 ([M-isobutene+H]+)

reactant | (3S,4R)-3-acetoxy-4-{[(5-chloro-thiophene-2-carbonyl)-amino]-methyl}-pyrrolidine-1-carboxylic acid tert-butyl ester | 20 mg | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CNC(=O)C=1SC(=CC1)Cl)OC(C)=O | C17H23ClN2O5S
reactant | NH3 | 2M | N | H3N
solvent | MeOH | CO | CH4O
product | (3R,4S)-3-{[(5-chloro-thiophene-2-carbonyl)-amino]-methyl}-4-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)O)CNC(=O)C=1SC(=CC1)Cl | C15H21ClN2O4S
